US04966902
(3.2) 2-(6-Chloro-pyridazin-3-yl)-propanenitrile
1.5 g (10 mmol) of 2-(6-hydroxy-pyridazin-3-yl)-propanenitrile are mixed with 5 g of phosphorus oxychloride and the mixture is stirred at 80°-90° C. for 45 minutes. The mixture is poured onto 30 g of ice, adjusted to pH 6 using 2N NaOH and extracted using ether. After removal of the solvent, an oil remains which solidifies on standing. Yield: 1 g (59.7% of theory); m.p.: 65° C. from hexane.

reactant | 2-(6-hydroxy-pyridazin-3-yl)-propanenitrile | 10 mmol, 1.5 g | OC1=CC=C(N=N1)C(C#N)C | C7H7N3O
reactant | phosphorus oxychloride | 5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 2N | [OH-].[Na+]
product | 2-(6-Chloro-pyridazin-3-yl)-propanenitrile | ClC1=CC=C(N=N1)C(C#N)C | C7H6ClN3
